### PR TITLE
(feat): Add union support for Go

### PR DESCRIPTION
**Pull request by rishav-karanjit**

### CODE REVIEW

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/shapevisitor/SmithyToDafnyShapeVisitor.java [hunk 1]
```diff
@@ -465,7 +466,94 @@ public String doubleShape(DoubleShape shape) {
...
+                            context.symbolProvider().toMemberName(member),
+                            internalDafnyType.replace(shape.getId().getName(), "CompanionStruct_" + shape.getId().getName() + "_{}"),
+                            targetShape.accept(
+                                    new SmithyToDafnyShapeVisitor(
+                                        context,dataSource + ".(*" + SmithyNameResolver.smithyTypesNamespace(shape) + "." + context.symbolProvider().toMemberName(member) + ").Value", writer, isConfigShape, true, false
+                                    )
+                                )
+                        );
+            
+            if(targetShape.isMapShape()){
```
Comment (rishav-karanjit) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/shapevisitor/SmithyToDafnyShapeVisitor.java]: Separating it looks more readable we can decrease this to a single block of code but I don't feel it will be more readable if done so but I might be biased as I wrote this code

File: TestModels/Aggregate/runtimes/go/go.mod [hunk 2]
```diff
@@ -0,0 +1,11 @@
+module github.com/Smithy-dafny/TestModels/Aggregate
```
Comment (ShubhamChaturvedi7) [inline TestModels/Aggregate/runtimes/go/go.mod]: All of these changes are already in the branch and reviewed. Are you sure you are not force pushing?

File: TestModels/SimpleTypes/SimpleEnum/src/Index.dfy [hunk 3]
```diff
@@ -2,7 +2,7 @@
 // SPDX-License-Identifier: Apache-2.0
 include "SimpleEnumImpl.dfy"
 
-module {:extern "simpletypessmithyenuminternaldafny" } SimpleEnum refines AbstractSimpleTypesSmithyEnumService {
+module {:extern "simple.types.smithyenum.internaldafny" } SimpleEnum refines AbstractSimpleTypesSmithyEnumService {
```
Comment (ShubhamChaturvedi7) [inline TestModels/SimpleTypes/SimpleEnum/src/Index.dfy:5]: Drop the `.`

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java [hunk 4]
```diff
@@ -76,29 +74,4 @@ public void generateUnion(GoWriter writer) {
     private boolean isEventStreamErrorMember(MemberShape memberShape) {
         return isEventStream && memberShape.getMemberTrait(model, ErrorTrait.class).isPresent();
     }
-
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java]: Why was this removed?

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/knowledge/GoPointableIndex.java [hunk 5]
```diff
@@ -76,6 +73,7 @@ public class GoPointableIndex implements KnowledgeIndex {
             // Interfaces
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/knowledge/GoPointableIndex.java]: Changing PointableIndex can break other cases. Are we sure these changes are safe?

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/nameresolver/DafnyNameResolver.java [hunk 6]
```diff
@@ -27,6 +30,26 @@ public static String getDafnyType(final Shape shape, final Symbol symbol) {
...
+            case INTEGER, LONG, BOOLEAN: 
+                return symbol.getName();
+            case MAP:
+                return "dafny.Map";
+            case DOUBLE, STRING, BLOB, LIST:
+                return "dafny.Sequence";
+            case ENUM, STRUCTURE, UNION:
+                return DafnyNameResolver.getDafnyType(shape, symbol);
+            default:
+                return "";
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/nameresolver/DafnyNameResolver.java]: Throw Exception for Default case.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java [hunk 7]
```diff
@@ -349,17 +350,59 @@ public String doubleShape(DoubleShape shape) {
     @Override
     public String unionShape(UnionShape shape) {
         writer.addImportFromModule("github.com/dafny-lang/DafnyRuntimeGo", "dafny");
-        return """
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java:352]: Why these are showing up in Diff? These changes are not on the branch. I suspect something is going on with your merge/pull/push. Can you double check?

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java [hunk 8]
```diff
@@ -349,17 +350,59 @@ public String doubleShape(DoubleShape shape) {
...
-            }()""".formatted(
-                shape.toShapeId().getName(),
-                shape.toShapeId().getName(),
-                dataSource);
+
+        String returnString = """
+                func() %s {
+                """.formatted(context.symbolProvider().toSymbol(shape));
+        returnString += """
+                    if %s == nil {
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java]: Are unions always Optional? Otherwise this nil check will fail.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java [hunk 9]
```diff
@@ -349,17 +350,59 @@ public String doubleShape(DoubleShape shape) {
...
+                            memberName,
+                            pointerForPointableShape,
+                            targetShape.accept(
+                                    new DafnyToSmithyShapeVisitor(context, unionDataSource, writer, isConfigShape, isMemberShapePointable)
+                                ));
+        }
+        returnString += """
+            return union
+            }()""";
+        return returnString;
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java]: I'd recommend to write things in `"""` blocks and then use `%s`. This makes it more readable over using `+` all over the place.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/SmithyToDafnyShapeVisitor.java [hunk 10]
```diff
@@ -455,7 +455,46 @@ public String doubleShape(DoubleShape shape) {
...
     public String unionShape(UnionShape shape) {
-        return "Wrappers.Companion_Option_.Create_None_()";
+        String internalDafnyType = DafnyNameResolver.getDafnyType(shape, context.symbolProvider().toSymbol(shape));
+        writer.addImportFromModule("github.com/dafny-lang/DafnyRuntimeGo", "dafny");
+        String returnString = """
+            func() Wrappers.Option {
+                switch %s.(type) {""".formatted(dataSource);
+        for (var member : shape.getAllMembers().values()) {
+            String memberName = context.symbolProvider().toMemberName(member);
+            String createMemberFunction = memberName.replace(shape.getId().getName() + "Member", "Create_")+"_";
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/SmithyToDafnyShapeVisitor.java]: Use `DafnyNameResolver` for this.

File: TestModels/Aggregate/runtimes/go/go.mod (hunk 2 above)
Comment (rishav-karanjit) [reply TestModels/Aggregate/runtimes/go/go.mod]: Not at all. If I was force pushing, it would mention 
```
rishav-karanjit force-pushed the ...
```

Comment (rishav-karanjit) [reply TestModels/Aggregate/runtimes/go/go.mod]: I wonder its a bug inside github because I merged `rishav-checkin-go-mod` into 2 branches. I needed to merge it in rishav-union when you were in vacation to get unblocked.
- rishav-union in PR #4
- scchatur/GoCodegen in PR #6 

But I will look into it.

File: TestModels/SimpleTypes/SimpleEnum/src/Index.dfy (hunk 3 above)
Comment (rishav-karanjit) [reply TestModels/SimpleTypes/SimpleEnum/src/Index.dfy:5]: We drop `.` using a script but we don't push the dropped `.` file as of now. We can reevaluate this if needed.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java (hunk 4 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java]: In Smithy 2.0, the [doc](https://smithy.io/2.0/spec/aggregate-types.html) says 
```
union: The unknown variant. Code generators for unions SHOULD define an unknown variant to account for newly added members.
```

When I searched unknown in smithy 1.0 [doc](https://smithy.io/1.0/search.html?q=unknown&check_keywords=yes&area=default), I didn't find any mention of unknown union value. So, I dropped this. However, let me know if you think otherwise.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/SmithyToDafnyShapeVisitor.java (hunk 10 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/SmithyToDafnyShapeVisitor.java]: `DafnyNameResolver.getDafnyCompanionTypeCreate` is definitely a right choice to use but it returns `Create_MyUnion_` whereas we need member shape of union`Create_IntegerValue_` or `Create_StringValue_` ... 

I did not update `DafnyNameResolver` for this because this only used for union and I don't see any use of this outside union.

Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/SmithyToDafnyShapeVisitor.java]: Also, its unlikely that we will iterate all the members in `DafnyNameResolver`. We can send each member shapes but it will return something like `Create_int32`. Also, if we send member shape as a shape we cannot check if that shape's container is union.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java (hunk 7 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java:352]: I reverted back all the merged commits and merged again. This worked.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java (hunk 9 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java]: Done

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java (hunk 8 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java]: I made a fix for it.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/nameresolver/DafnyNameResolver.java (hunk 6 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/nameresolver/DafnyNameResolver.java]: Done

File: TestModels/SimpleTypes/SimpleEnum/src/Index.dfy (hunk 3 above)
Comment (rishav-karanjit) [reply TestModels/SimpleTypes/SimpleEnum/src/Index.dfy:5]: I see some conversation regarding this here: https://github.com/smithy-lang/smithy-dafny/pull/511

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/knowledge/GoPointableIndex.java (hunk 5 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/knowledge/GoPointableIndex.java]: Pointer vs non pointer issue has been biting us a lot. I think rather then doing this as a part of this PR we need to take a closer look into it in its own sub task. So, I reverted few. Things that are changed and are not reverted are:
- If a `membershape` has required trait it is always non pointer. We talked about this way back has this changed?
- I renamed `NUMBER_SHAPE` variable to `KNOWN_POINTER_TYPE` because if we find some other shape with similar issue we can add it to this variable
- String seems to be always considered a pointer type. `DafnyToSmithyShapeVisitor` does not handle a case where string is non pointer (See the function return type). I have made a comment in a sim so that we can dive deep into it in a separate sub task that is only related to Pointer

File: TestModels/SimpleTypes/SimpleEnum/src/Index.dfy (hunk 3 above)
Comment (ShubhamChaturvedi7) [reply TestModels/SimpleTypes/SimpleEnum/src/Index.dfy:5]: Ahh so we are still using the script. I had deprecated the script because I had started to push this on a branch.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java (hunk 4 above)
Comment (ShubhamChaturvedi7) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java]: Let's follow the 2.0 guidelines.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/knowledge/GoPointableIndex.java [hunk 11]
```diff
@@ -99,8 +96,13 @@ public class GoPointableIndex implements KnowledgeIndex {
             ShapeType.BIG_INTEGER
     );
 
-    // All types types that are comparable to nil
-    private static final Set<ShapeType> NUMBER_SHAPE = SetUtils.of(
+    // Pointer types that are strictly pointer type even if it has required trait
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/knowledge/GoPointableIndex.java]: This is NOT True. If there's a code that assumes this then we need to fix this.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/knowledge/GoPointableIndex.java [hunk 12]
```diff
@@ -99,8 +96,13 @@ public class GoPointableIndex implements KnowledgeIndex {
...
+    private static final Set<ShapeType> STRICT_POINTER_TYPE = SetUtils.of(
+        ShapeType.STRING
+    );
+
+    // All the known pointer type if not required
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/knowledge/GoPointableIndex.java:99]: Again this only holds True for models we own - but since I've added another Index for `aws` you might be able to keep it.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/knowledge/GoPointableIndex.java [hunk 13]
```diff
@@ -173,7 +174,12 @@ private boolean isMemberPointable(MemberShape member, Shape targetShape) {
             return false;
         }
 
-        if (NUMBER_SHAPE.contains(targetShape.getType()) && !member.hasTrait(RequiredTrait.class) && !model.expectShape(member.getContainer()).isMapShape()) {
+        //if membershape is required return it is not pointable
+        if (member.hasTrait(RequiredTrait.class) && !STRICT_POINTER_TYPE.contains(targetShape.getType())) {
+            return false;
+        }
+
+        if (KNOWN_POINTER_TYPE.contains(targetShape.getType()) && !model.expectShape(member.getContainer()).isMapShape()) {
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/knowledge/GoPointableIndex.java]: I think this is the right path. There SHOULD NOT be any case where we need `*` as value for map.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java [hunk 14]
```diff
@@ -349,17 +350,68 @@ public String doubleShape(DoubleShape shape) {
...
+        String nilCheck = """
+                if %s == nil {
+                        return nil
+                }""".formatted(
+                        dataSource
+                );
+        if (GoPointableIndex.of(context.model()).isPointable(shape) == false) {
+            nilCheck = "";
+        }
+        String unionVariableInitialization = "var union %s".formatted(context.symbolProvider().toSymbol(shape));
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java]: 1. This whole thing can be simplified as:

```
"""
func() %s {
    %s
var union %s
"""
```
and so on.

2. finalize variables wherever required, you can even just do `final var xy = 1;`
3. Use `StringBuilder` when you are constructing strings.
4. Avoid `+` in strings if they are big.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java [hunk 15]
```diff
@@ -349,17 +350,68 @@ public String doubleShape(DoubleShape shape) {
...
+        String eachMemberInUnion = "";
+        for (var member : shape.getAllMembers().values()) {
+            Shape targetShape = context.model().expectShape(member.getTarget());
+            String memberName = context.symbolProvider().toMemberName(member);
+            String rawUnionDataSource = "(" + dataSource + ".(" + DafnyNameResolver.getDafnyType(shape, context.symbolProvider().toSymbol(shape)) + "))";
+            // unwrap union type, assert it then convert it to its member type with Dtor_ (example: Dtor_BlobValue()). unionDataSource is not a wrapper object until now.
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java:392]: Even if it's Optional?

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java [hunk 16]
```diff
@@ -349,17 +350,68 @@ public String doubleShape(DoubleShape shape) {
...
+            Boolean isMemberShapePointable = (GoPointableIndex.of(context.model()).isPointable(targetShape) && GoPointableIndex.of(context.model()).isDereferencable(targetShape)) && !targetShape.isStructureShape();
+            String pointerForPointableShape = isMemberShapePointable ? "*" : "";
+            String isMemberCheck = """
+                        if ((%s).%s()) {""".formatted(
+                            rawUnionDataSource,
+                            memberName.replace(shape.getId().getName() + "Member", "Is_")
+                        );
+            String wrappedDataSource = "";
+            if (!(targetShape.isListShape() || targetShape.isStructureShape())) {
+                // All other shape except list and structure needs a Wrapper object but unionDataSource is not a Wrapper object.
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java]: Same a above, what about Optionality?

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java [hunk 17]
```diff
@@ -349,17 +350,68 @@ public String doubleShape(DoubleShape shape) {
...
+                            memberName.replace(shape.getId().getName() + "Member", "Is_")
+                        );
+            String wrappedDataSource = "";
+            if (!(targetShape.isListShape() || targetShape.isStructureShape())) {
+                // All other shape except list and structure needs a Wrapper object but unionDataSource is not a Wrapper object. 
+                wrappedDataSource = """
+                    var dataSource = Wrappers.Companion_Option_.Create_Some_(%s)""".formatted(unionDataSource);
+                unionDataSource = "dataSource.UnwrapOr(nil)";
+            }
+            eachMemberInUnion += """
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java]: Use builder

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/SmithyToDafnyShapeVisitor.java (hunk 10 above)
Comment (ShubhamChaturvedi7) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/SmithyToDafnyShapeVisitor.java]: Create a new function - it most likely will be re-used. Case being aws-sdk.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java (hunk 4 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java]: Done

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java (hunk 15 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java:392]: Yes. In union we unwrap the membershape, assert it, convert to the required value and then again wrap it. This is because in other shapes we can directly do `dataSource.UnwrapOr(nil)` but to find a value inside dafny generated union we need to `Dtor_union()` then unwrap then assert and only then use Dtor once again (example `Dtor_MapValue()`). 

Example of string in 393 is `(dafnyInput.Dtor_union().UnwrapOr(nil).(simpleunioninternaldafnytypes.MyUnion)).Dtor_MapValue()`

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/SmithyToDafnyShapeVisitor.java (hunk 10 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/SmithyToDafnyShapeVisitor.java]: Done at `DafnyNameResolver.getDafnyCreateFuncForUnionMemberShape`

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/knowledge/GoPointableIndex.java (hunk 11 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/knowledge/GoPointableIndex.java]: Removed STRING shape to be pointer always

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java (hunk 16 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java]: Does https://github.com/ShubhamChaturvedi7/smithy-dafny/pull/3#discussion_r1722050563 answer your question?

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java (hunk 14 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java]: Done

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/knowledge/GoPointableIndex.java (hunk 5 above)
Comment (ShubhamChaturvedi7) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/knowledge/GoPointableIndex.java]: The reason being legacy Box / Default traits in smithy. So there's no one line answer and this needs to be handled on case by case basis.

1. Yes - this is not always true, more so when dealing with existing aws-models and go sdk.
2. Makes sense.
3. Again this goes back to 1 but yeah I'm yet to see a case in aws-sdk where string is non-pointer type.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/StructureGenerator.java [hunk 18]
```diff
@@ -289,18 +290,23 @@ private void renderErrorStructure() {
...
+                
+                // The message is the only part of the standard APIError interface that isn't known ahead of time.
+                // Message is a pointer mostly for the sake of consistency.
+
+                // If Message and ErrorCodeOverride is not defined in model.
+                if (!memberNameSet.contains("Message")) {
+                    writer.write("Message *string").write("");
+                }
+                if (!memberNameSet.contains("ErrorCodeOverride")) {
+                    writer.write("ErrorCodeOverride *string").write("");
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/StructureGenerator.java:311]: Why has this changed? This might break aws-models.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java [hunk 19]
```diff
@@ -74,4 +76,29 @@ public void generateUnion(GoWriter writer) {
...
     }
+
+    /**
+     * Generates a struct for unknown union values that applies to every union in the given set.
+     *
+     * @param writer         The writer to write the union to.
+     * @param unions         A set of unions whose interfaces the union should apply to.
+     * @param symbolProvider A symbol provider used to get the symbols for the unions.
+     */
+    public static void generateUnknownUnion(
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java:87]: Why do we need this??

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java [hunk 20]
```diff
@@ -74,4 +76,29 @@ public void generateUnion(GoWriter writer) {
...
+            GoWriter writer,
+            Collection<UnionShape> unions,
+            SymbolProvider symbolProvider
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java]: Good practice is to finalize the variables that are not supposed to change.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java [hunk 21]
```diff
@@ -178,9 +178,8 @@ public String listShape(ListShape shape) {
 			if !ok {
 				break
 			}
-			fieldValue = append(fieldValue, %s%s)}
+			fieldValue = append(fieldValue, %s)}
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java:181]: What's the reasoning behind structure not being a pointer??

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java [hunk 22]
```diff
@@ -285,14 +285,28 @@ public String stringShape(StringShape shape) {
...
                }()""".formatted(dataSource, dataSource, underlyingType);
+        }
+        else {
+            return """
+                func() (string) {
+                    var s string
+                    for i := dafny.Iterate(%s) ; ; {
+                        val, ok := i()
+                        if !ok {
+                            return []string{s}[0]
```
Comment (ShubhamChaturvedi7) [inline codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java]: `[]string{s}[0]` is only required when converting from val to * type. Here you could directly return the `s`.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/StructureGenerator.java (hunk 18 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/StructureGenerator.java:311]: Because this will break models with @required in message of error structure.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java (hunk 19 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java:87]: This conversation: https://github.com/ShubhamChaturvedi7/smithy-dafny/pull/3#discussion_r1714477314

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java (hunk 21 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java:181]: This is inside listshape. Anything inside listshape is a non pointer similar to map

Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java:181]: The question is more like can list have pointer. I have reason for both yes and no. But move forward with current code and revisit this if needed.

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java (hunk 20 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/UnionGenerator.java]: Done

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java (hunk 22 above)
Comment (rishav-karanjit) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/localservice/shapevisitor/DafnyToSmithyShapeVisitor.java]: Done

File: codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/StructureGenerator.java (hunk 18 above)
Comment (ShubhamChaturvedi7) [reply codegen/smithy-dafny-codegen/src/main/java/software/amazon/polymorph/smithygo/codegen/StructureGenerator.java:311]: We discussed, and Java's behavior would throw NPE but this case should never happen because aws-sdk will set the message to some value. Asked @rishav-karanjit to add a TODO.

**Review by ShubhamChaturvedi7 — APPROVED** [review]
